US04438128
1. 3,5-Dimethyl-1-phenyl-4-(2-phthalimidoethylamino)-pyrazole
A mixture of 38.1 g. 4-amino-3,5-dimethyl-1-phenylpyrazole, 77.5 g. N-(2-bromoethyl)-phthalimide and 42 g. potassium carbonate in 600 ml. acetonitrile is boiled for 15 hours, with stirring. After cooling, insoluble material is filtered off with suction and the filtrate is evaporated. The residue is stirred with methylene chloride and suction filtered and the filtrate is purified on a silica gel column using, as elution agents, first methylene chloride and then methylene chloride-ethyl acetate (6:4 v/v). There are obtained 41 g. (56% of theory) of a brownish oil.

reactant | 4-amino-3,5-dimethyl-1-phenylpyrazole | NC=1C(=NN(C1C)C1=CC=CC=C1)C | C11H13N3
reactant | N-(2-bromoethyl)-phthalimide | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 3,5-Dimethyl-1-phenyl-4-(2-phthalimidoethylamino)-pyrazole | CC1=NN(C(=C1NCCN1C(C=2C(C1=O)=CC=CC2)=O)C)C2=CC=CC=C2 | C21H20N4O2
